Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],3.70641499305
[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-8.60193406737
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.45153908652
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],5.0639909772500005
[C:2]([H:3])([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9].[O:1]>>[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9],-1.35152672167
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8].[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-4.30254810622
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])[H:10].[H:6],4.55953695251
[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],6.53884573804
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-0.36422765189
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:15].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14],4.62648117802
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],4.43777695692
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4][H:5],8.58498747232
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.03457483024
[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],3.75150494543
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2],3.2404053904500003
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:4],2.07685911235
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])[O:8][H:9],2.6142629966
[C:1][O:2][C:3]#[C:4][O:5][H:6]>>[C:1][O:2][C:3]#[C:4].[O:5][H:6],5.1974058056
[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]1[O:4][C:5][C:6]1([H:7])[H:8],-1.00438743171
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.23993292597
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.59107237366
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.01122831355
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.22582654069
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:12]([H:13])[H:14],4.83867861357
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-4.3284609446900015
[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.89170976798
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9],5.05358607134
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:7][H:8]>>[C:2]([C:3][C:4][H:5])#[C:6][C:7][H:8].[O:1],6.76951172266
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7][O:8][C:9]([H:10])([H:11])[H:12],2.13911946247
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:1][O:2],6.088670806290001
